US07414049B2
b) (S)-3-Amino-5-(2-benzyloxy-ethyl)-4-oxo-2,3,4,5-tetrahydro-benzo[b][1,4]diazepine-1-carboxylic acid 2-benzyloxy-ethyl ester Hydrochloride
In an analogous manner to that described in Example 1d), the treatment of the (S)-5-(2-benzyloxy-ethyl)-3-tert-butoxycarbonylamino-4-oxo-2,3,4,5-tetrahydro-benzo[b][1,4]diazepine-1-carboxylic acid 2-benzyloxy-ethyl ester with hydrochlorid acid (37%) in dioxane yielded quantitatively the title compound as a viscous light yellow oil; MS (m/e): 490 (M+H)+.

reactant | (S)-5-(2-benzyloxy-ethyl)-3-tert-butoxycarbonylamino-4-oxo-2,3,4,5-tetrahydro-benzo[b][1,4]diazepine-1-carboxylic acid 2-benzyloxy-ethyl ester | C(C1=CC=CC=C1)OCCOC(=O)N1C2=C(N(C([C@H](C1)NC(=O)OC(C)(C)C)=O)CCOCC1=CC=CC=C1)C=CC=C2 | C33H39N3O7
reactant | hydrochlorid | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (S)-3-Amino-5-(2-benzyloxy-ethyl)-4-oxo-2,3,4,5-tetrahydro-benzo[b][1,4]diazepine-1-carboxylic acid 2-benzyloxy-ethyl ester Hydrochloride | Cl.C(C1=CC=CC=C1)OCCOC(=O)N1C2=C(N(C([C@H](C1)N)=O)CCOCC1=CC=CC=C1)C=CC=C2 | InChI=1S/C28H31N3O5.ClH/c29-24-19-31(28(33)36-18-17-35-21-23-11-5-2-6-12-23)26-14-8-7-13-25(26)30(27(24)32)15-16-34-20-22-9-3-1-4-10-22;/h1-14,24H,15-21,29H2;1H/t24-;/m0./s1
